US03985907
PREPARATION OF (1,3-DIETHYLACETONYL)(2,5-DIMETHYL-3-FURYL)SULFIDE
Into a 25 ml round bottom 3 neck flask equipped with magnetic stirrer, Y tube, nitrogen inlet, reflux condenser and thermometer is placed a solution of 0.27 g (0.005 moles) of sodium methoxide dissolved in 3 ml absolute methanol. The sodium methoxide solution is cooled using a water bath to 25° C. A solution of 0.64 g (0.005 moles) of 2,5-dimethyl-3-furan thiol in 3 ml of absolute methanol is then added to the sodium methoxide solution dropwise from a pipette while maintaining the temperature of the reaction mass between 22° C and 28° C. While maintaining the temperature of the reaction mass at 23° - 35° C, 3-chloro-4-heptanone (0.74 g; 0.005 moles) in 1 ml absolute methanol is added dropwise. The reaction mass is then stirred for a period of 1 hour while maintaining the temperature at 23° C. After this 1 hour period, 15 ml of water is added with stirring and the reaction mass temperature rises to 28° - 30° C. The reaction mass is cooled to 25° C using a water bath and now exists in an aqueous phase and an organic phase. The aqueous phase (pH=6) is extracted with two 6 ml portions of n-hexane; and the hexane extracts and organic phase are combined, washed with a 4 ml portion of saturated sodium chloride solution and then dried over anhydrous sodium sulfate. The resulting material is gravity filtered and concentrated on a rotary evaporator at 25° - 35° C and 15 mm Hg pressure, yielding a crude yellow oil weighing 1.2 g. The desired product is isolated by GLC trapping (8 foot × 1/4 inch SE-30 Column), and NMR, IR and Mass Spectral analyses yield the information that this material has the structure: ##SPC16##

reactant | sodium methoxide | 0.005 moles, 0.27 g | C[O-].[Na+]
reactant | 2,5-dimethyl-3-furan thiol | 0.005 moles, 0.64 g | CC=1OC(=CC1S)C | C6H8OS
reactant | 3-chloro-4-heptanone | 0.005 moles, 0.74 g | ClC(CC)C(CCC)=O | C7H13ClO
reactant | water | 15 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 3 ml | CO | CH4O
solvent | methanol | 1 ml | CO | CH4O
product | (1,3-DIETHYLACETONYL)(2,5-DIMETHYL-3-FURYL)SULFIDE | C(C)C(C(=O)CCC)SC1=C(OC(=C1)C)C | C13H20O2S
